US06465472B1
2-Amino-4,5-methylenedioxy-(3′,4′-methylenedioxy)benzophenone
A solution of 4,5-methylenedioxy-2-trifluoroacetamido-(3′,4′-methylenedioxy)benzophenone (5 g, 13.12 mmol) in methanol at 50° C. was treated with a solution of potassium carbonate (3.63 g, in 30 mL water) and stirred for 5 h. The reaction mixture was cooled in an ice bath for 20 min. The resulting solid was filtered and then dissolved in ethyl acetate, dried over anhydrous MgSO4, and concentrated to give a crude yellow product (2.8 g).

reactant | 4,5-methylenedioxy-2-trifluoroacetamido-(3′,4′-methylenedioxy)benzophenone | 13.12 mmol, 5 g | C1OC2=CC(=C(C(=O)C3=CC4=C(C=C3)OCO4)C=C2O1)NC(C(F)(F)F)=O | C17H10F3NO6
reactant | potassium carbonate | 30 mL, 3.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 2-Amino-4,5-methylenedioxy-(3′,4′-methylenedioxy)benzophenone | 2.8 g | NC1=C(C(=O)C2=CC3=C(C=C2)OCO3)C=C3C(=C1)OCO3 | C15H11NO5
